US04060528
A mixture of 8.6 parts of 2-[p-(2-thenoyl)phenyl]acetonitrile, 18 parts of concentrated sulfuric acid, 10 parts of acetic acid and 10 parts of water is stirred and refluxed for one hour. The reaction mixture is cooled and poured onto 200 parts of ice-water. The product is extracted twice with 160 parts of ether. The combined extracts are washed with 100 parts of diluted sodium hydroxide solution and separated. The aqueous phase is acidified with concentrated hydrochloric acid solution, whereupon the product is separated as an oil. The latter is extracted with ether. The extract is dried and evaporated. The residue is triturated in petroleumether and the crude product is dissolved in chloroform. It is purified by column chromatography, using a mixture of chloroform and 5% of methanol. The pure fractions are collected and the solvent is evaporated. The residue is triturated in petroleumether and the solid product is crystallized from acetonitrile at -20° C, yielding 2-[p-(2-thenoyl)phenyl]acetic acid; mp. 126°-129° C.

reactant | 2-[p-(2-thenoyl)phenyl]acetonitrile | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)CC#N | C13H9NOS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 2-[p-(2-thenoyl)phenyl]acetic acid | C1(=CC=CS1)C(=O)C1=CC=C(C=C1)CC(=O)O | C13H10O3S
